US08877782B2
6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-cyclopropylmethyl-nicotinamide
As described for example 117, 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (144 mg, 0.4 mmol) was converted, using cyclopropanemethylamine instead of 2,2,2-trifluoroethylamine, to the title compound (111 mg, 70%) which was obtained as a white solid. MS: m/e=398.4 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.4 mmol, 144 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
product | 6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-cyclopropylmethyl-nicotinamide | 111 mg, 70% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NCC2CC2)C=C1)C | C21H20ClN3O3
